US07834034B2
6-(2-Chloro-acetylamino)-benzo[b]thiophene-2-carboxylic acid methyl ester.
To a mixture of 6-amino-benzo[b]thiophene-2-carboxylic acid methyl ester (1.0 g, 4.83 mmol) and Na2CO3 (2.05 g, 19.3 mmol) in DMF (10 mL) was added chloroacetylchloride (460 μL, 5.79 mmol.). After stirring for 18 h, the mixture was diluted with EtOAc, filtered and concentrated. The residue was purified by column:chromatography (2:8; EtOAc:hexanes) to give a pale-white solid. MS (EI): cal'd (MH+) 284.01, exp (MH+) 284.15. Also retained ˜50.5% of impure fractions.

reactant | 6-amino-benzo[b]thiophene-2-carboxylic acid methyl ester | 4.83 mmol, 1.0 g | COC(=O)C1=CC2=C(S1)C=C(C=C2)N | C10H9NO2S
reactant | Na2CO3 | 19.3 mmol, 2.05 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroacetylchloride | 5.79 mmol, 460 μL | ClCC(=O)Cl | C2H2Cl2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2-Chloro-acetylamino)-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C=C(C=C2)NC(CCl)=O | C12H10ClNO3S
